US08304419B2
Step A: Methyl 3-chloro-5-ethenyl-1H-pyrrole-2-carboxylate
A suspension of methyl(triphenyl)phosphonium bromide (3.97 g, 11.1 mmol) in 20 mL of THF was cooled to −78° C. n-Butyllithium (1.6 M in Hexanes, 6.93 mL, 11.1 mmol) was added and the resulting yellow solution stirred for 20 minutes. A THF solution of methyl 3-chloro-5-formyl-1H-pyrrole-2-carboxylate (0.522 g, 2.78 mmol) was added and the reaction was warmed to RT. The reaction mixture was partitioned between EtOAc and water and the layers were separated. The organic layer was dried over MgSO4, filtered and the solvent evaporated. Purification was accomplished by silica gel column chromatography (EtOAc/hexanes) to afford the title compound (0.210 g, 40%) as a white solid. 1H NMR (400 MHz, Acetone-d6) δ ppm 11.05 (br. s., 1H), 6.62 (dd, 1H), 6.42 (d, 1H), 5.83 (d, 1H), 5.25 (d, 1H), 3.79 (s, 3H). LCMS: m/z=184.6 (M−1).

reactant | n-Butyllithium | 11.1 mmol, 1.6 M, 6.93 mL | C(CCC)[Li]
reactant | methyl 3-chloro-5-formyl-1H-pyrrole-2-carboxylate | 2.78 mmol, 0.522 g | ClC1=C(NC(=C1)C=O)C(=O)OC | C7H6ClNO3
catalyst | methyl(triphenyl)phosphonium bromide | 11.1 mmol, 3.97 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Methyl 3-chloro-5-ethenyl-1H-pyrrole-2-carboxylate | 0.210 g, 40% | ClC1=C(NC(=C1)C=C)C(=O)OC | C8H8ClNO2
